US05405851
A. 4-Amino-N-(2-hydroxyethyl)benzamide
A solution of 4-aminobenzoic acid (2.7 g, 20 mmol), ethanolamine (1.4 g, 23 mmol), and 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (4.1 g, 21 mmol) in dimethylformamide (60 ml) was stirred overnight at room temperature. More carbodiimide (0.3 g, 2 mmol) was added and after stirring for one hour the reaction mixture was concentrated in vacuo onto silica gel (15 g). Purification by chromatography on silica gel (125 g) eluting with methanol:methylene chloride (3.97 to 1:19) and recrystallization from methanol:ethyl acetate gave, after drying under high vacuum, 4-amino-N-(2-hydroxyethyl)benzamide (1.65 g) as a white solid. 1H NMR (DMSO-d6, 300 MHz) δ: 3.26 (q, J=6 Hz, 2H, NCH2), 3.46 (q, J=6 Hz, 2H, OCH2), 4.68 (t, J=5.5, 1H, OH), 5.58 (br s, 2H, NH2), 6.51 (d, J= 8.5 Hz, 2H, Ar), 7.56 (d, J=8.5 Hz, 2H, Ar), 7.94 (br t, J=5.4 Hz, 1H, CONH). Mass spectrum (CI-CH4): 181 (M+1, 100%). Anal. Calculated for C9H12N2O2 : C, 59.99; H, 6.71; N, 15.55. Found: C, 60.05; H, 6.72; N, 15.55.

reactant | 4-aminobenzoic acid | 20 mmol, 2.7 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | ethanolamine | 23 mmol, 1.4 g | C(O)CN | C2H7NO
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 21 mmol, 4.1 g | Cl.CN(CCCN=C=NCC)C
reactant | carbodiimide | 2 mmol, 0.3 g | N=C=N | CH2N2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 4-Amino-N-(2-hydroxyethyl)benzamide | NC1=CC=C(C(=O)NCCO)C=C1 | C9H12N2O2
